2148-12-05 07:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - renal: d/c CVVHD, hold diuretics for 24 hrs to watch kidney function
   - extubated without complication, speaking and eating!
   - 6:30pm: had several runs of VT, successful ATP but with drop in BP;
   restarted lidocaine gtt at 2 mg with 75mg bolus
   - UOP poor after d/c CVVHD; only 25-30 cc/hr
   - 12:30- 1:30am: repeat episodes of VT as long as 1.5 min but remained
   conscious throughout.  No acute intervention
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2148-12-4**] 05:39 AM
   Ciprofloxacin - [**2148-12-4**] 10:00 AM
   Cefipime - [**2148-12-4**] 04:00 PM
   Infusions:
   Heparin Sodium - 1,050 units/hour
   Lidocaine - 2 mg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2148-12-4**] 08:00 AM
   Lidocaine - [**2148-12-4**] 06:41 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pt not responding appropriately to questions,  was awoken for
   examination, appear to be sleepy still.
   Flowsheet Data as of  [**2148-12-5**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.4
C (97.6
   HR: 69 (63 - 93) bpm
   BP: 110/62(80) {80/48(62) - 141/84(102)} mmHg
   RR: 17 (9 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72 kg (admission): 76 kg
   Height: 64 Inch
             Total In:
                                                                  2,720 mL
                                                                    288 mL
   PO:
                                                                     60 mL
             TF:
   IVF:
                                                                  2,660 mL
                                                                    288 mL
   Blood products:
   Total out:
                                                                  5,388 mL
                                                                    165 mL
   Urine:
                                                                    671 mL
                                                                    165 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,668 mL
                                                                    123 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: Standby
   Vt (Spontaneous): 345 (345 - 550) mL
   PS : 5 cmH2O
   RR (Spontaneous): 0
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 29
   PIP: 0 cmH2O
   SpO2: 98%
   ABG: 7.43/37/111/21/0
   Ve: 10.1 L/min
   PaO2 / FiO2: 277
   Physical Examination
   Gen: well appearing male, lethargic, just awoken from sleep.
   Neck: Rside hemodialysis catheter, with erythemetous but clean borders
   CV: RRR, faint systolic murmur at USB.  No rubs or gallops
   Lungs; clear anteriorly, good air movement.
   Neuro: responds appropriately to commands, but not to questioning at
   this time
   Labs / Radiology
   191 K/uL
   9.4 g/dL
   77 mg/dL
   2.2 mg/dL
   21 mEq/L
   4.2 mEq/L
   38 mg/dL
   99 mEq/L
   131 mEq/L
   28.8 %
   10.3 K/uL
        [image002.jpg]
                            [**2148-12-3**]  06:22 PM
                            [**2148-12-4**]  12:02 AM
                            [**2148-12-4**]  12:13 AM
                            [**2148-12-4**]  05:19 AM
                            [**2148-12-4**]  05:34 AM
                            [**2148-12-4**]  09:00 AM
                            [**2148-12-4**]  11:26 AM
                            [**2148-12-4**]  01:50 PM
                            [**2148-12-5**]  12:10 AM
                            [**2148-12-5**]  04:07 AM
   WBC
   13.0
   12.3
   10.3
   Hct
   28.3
   27.4
   28.8
   Plt
   271
   260
   191
   Cr
   1.9
   1.7
   1.6
   2.0
   2.2
   TCO2
   22
   23
   24
   25
   25
   Glucose
   129
   81
   82
   86
   77
   Other labs: PT / PTT / INR:19.2/105.3/1.8, CK / CKMB /
   Troponin-T:374/11/, ALT / AST:74/64, Alk Phos / T Bili:242/1.7,
   Differential-Neuts:77.0 %, Band:14.0 %, Lymph:3.0 %, Mono:3.0 %,
   Eos:0.0 %, Fibrinogen:523 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:3.4
   g/dL, LDH:214 IU/L, Ca++:8.8 mg/dL, Mg++:2.2 mg/dL, PO4:3.2 mg/dL
   Imaging: AM CXR pending
   Microbiology: Sputum:
   GRAM NEGATIVE ROD(S).    HEAVY GROWTH.
         STAPH AUREUS COAG +.    HEAVY GROWTH.
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 VENTRICULAR TACHYCARDIA, SUSTAINED
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 IMPAIRED SKIN INTEGRITY
 HEART FAILURE (CHF), SYSTOLIC AND DIASTOLIC, ACUTE
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 CARDIAC ARREST
   71 yo M with PMH significant for CHF (EF: 20-25%), CAD s/p CABG, CKD,
   a-fib on coumadin, s/p ICD, presents after VF arrest.
   #. VF Arrest: s/p artic sun protocol with no sx of seizure by EEG.
   Antiarrhythmics weaned to amiodarone 100mg daily and lidocaine gtt
   d/ced.  Still with some persistent VT, but successfully ATP with
   reduced threshold on defibrillator (HR = 113).
   - d/c EEG monitoring as no signs of seizure activity
   - cont amiodarone 100mg daily
   - cont heparin gtt for hx of atrial fibnllation
   - f/u EP recs, may need intervention once condition stabilize
   #. Acute on Chronic Renal Failure: Admitted with Cr 5.3. No baseline
   for comparison, but per family, patient has severe kidney disease. Pt
   potassium wnl PTH 303. Cr trending down to 1.7 with CVVHD and good
   urine output: improving renal function vs. Creatinine clearance from
   ultrafiltration
   - d/c CVVHD for now and trend UOP
   - hold off on diuretic use
   - follow pm renal function
   - renally dose all medications
   # CORONARIES: Pt with CABG and recent cath 3 months prior that showed
   occluded grafts, but no intervention per wife. ECG shows LBBB, no old
   to compare. CE elevated with Trop 0.16 and CK 521, MB: 13. Given
   patient's comorbidities including severe CHF, CKD and poor functional
   status and recent cath the patient would likely benefit from medical
   management at this time.
   - ASA 325mg and lipitor 20mg (hold high dose given LFT abnormality)
   - monitor tele
   - holding BB and ACEI given hypotension
   # PUMP: Pt with severe CHF, EF<20%.   Currently -1.1 L LOS with
   aggressive diuresis using CVVHD and diuretics.  Decreasing anasarca on
   exam, CXR with minimal pulmonary edema.  Initially requiring multiple
   pressors, dobutamine was d/c
d [**1-22**] to VT and levophed is being weaned.
   - holding BB and ACEI given hypotension
   - wean down pressors, consider switching to dobutamine if pt
   persistently hypotensive
   - strict I/O
   - trial of CVVHD discontinuation
   #. Resp Distress: Pt was intubated for airway protection in the setting
   of VF arrest. Evidence of mild
moderate pulmonary edema and PNA on CXR
   which has improved with aggressive volume removal.  On minimal
   ventilator settings and can likely be extubated if can protect airway
   - wean sedation and vent as tolerated
   - SBP trial
   - cont vanc/ cefepime/ clpro for VAP Day [**4-26**]
   - repeat CXR in AM
   - extubate if mental status is adequate
   #. Transaminitis: Likely due to poor forward flow.  Improving
   - cont to trend
   #. Gout: holding meds for now
   #FEN: Tubefeed/ replace prn
   #ACCESS: PIV's, a-line, and CVL
   #PROPHYLAXIS:
   -DVT ppx with heparin SQ pending re-initiation of heparin gtt
   -Bowel regimen
   #CODE: FULL for now
   #COMM: Wife [**Name2 (NI) **] [**Telephone/Fax (1) 12068**]
   #DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2148-11-29**] 03:06 AM
   Multi Lumen - [**2148-11-29**] 04:00 AM
   Dialysis Catheter - [**2148-12-3**] 07:03 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 568**] and [**Doctor Last Name **].
   I would add the following remarks:
   Medical Decision Making
   Mr [**Known lastname 9992**] is doing well from the respiratory standpoint after
   successful extubation yesterday afternoon. He had more VT last evening
   requiring the re-initiation of Lido at 2 mg/min. His VT has been mostly
   supressed on this although he did have four pace terminated episodes of
   VT overnight. This am he is quite somnolent and confused on Lido. CVVH
   is off and urine output is good. Creat is baseline at 2.2. LFTs remain
   moderately elevated. Sputum has GNR and S aureus.
   Therefore, for his VT, I have spoken to Dr [**Last Name (STitle) 5152**] and we will add
   back Mexilitine 150 mg TID to Amio 100 QD as Lido is off. Resume
   Metoprolol 25m g TID to slow rate and we will try to keep him paced at
   baseline to avoid VT. Vanco, Cipro, Cefipime for VAP. Creat baseline
   off CVVH. Will watch LFTs.
   Above discussed extensively with family member, next of [**Doctor First Name 372**] or health
   care proxy. I have discussed this plan with Dr(s). [**Name (NI) 568**] and [**Doctor Last Name **].
   Total time spent on patient care: 40 minutes of critical care time.